US05334716
A mixture of ethyl 4-[1-(3-aminobenzoyl)indolizin-3-yl]butyrate (175 mg), 1-bromohexyl-4-isobutylbenzene (177 mg) and diisopropylethylamine (194 mg) in dichloromethane (3 ml) was refluxed for 20 hours. The reaction mixture was poured into a mixture of ethyl acetate and water. The organic layer was separated and washed with water and brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel column eluting with n-hexane and ethyl acetate (3:1) to give ethyl 4-[1-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]indolizin-3-yl]butyrate (170 mg) as an oil.

reactant | ethyl 4-[1-(3-aminobenzoyl)indolizin-3-yl]butyrate | 175 mg | NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C21H22N2O3
reactant | 1-bromohexyl-4-isobutylbenzene | 177 mg | BrC(CCCCC)C1=CC=C(C=C1)CC(C)C | C16H25Br
reactant | diisopropylethylamine | 194 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ethyl 4-[1-[3-[1-(4-isobutylphenyl)hexylamino]benzoyl]indolizin-3-yl]butyrate | 170 mg | C(C(C)C)C1=CC=C(C=C1)C(CCCCC)NC=1C=C(C(=O)C=2C=C(N3C=CC=CC23)CCCC(=O)OCC)C=CC1 | C37H46N2O3
